* C:\Users\Public\Music\FOSSEE\eSim\library\SubcircuitLibrary\SN54F521\SN54F521.cir

* EESchema Netlist Version 1.1 (Spice format) creation date: 05/10/25 04:05:21

* To exclude a component from the Spice Netlist add [Spice_Netlist_Enabled] user FIELD set to: N
* To reorder the component spice node sequence add [Spice_Node_Sequence] user FIELD and define sequence: 2,1,0

* Sheet Name: /
X2  Net-_U19-Pad3_ Net-_U20-Pad3_ Net-_U21-Pad3_ Net-_U23-Pad3_ Net-_U28-Pad1_ 4_and		
X1  Net-_U22-Pad3_ Net-_U24-Pad3_ Net-_U25-Pad3_ Net-_U26-Pad3_ Net-_U28-Pad2_ 4_and		
U2  Net-_U1-Pad17_ Net-_U19-Pad1_ d_inverter		
U3  Net-_U1-Pad18_ Net-_U19-Pad2_ d_inverter		
U4  Net-_U1-Pad15_ Net-_U20-Pad1_ d_inverter		
U5  Net-_U1-Pad16_ Net-_U20-Pad2_ d_inverter		
U6  Net-_U1-Pad13_ Net-_U21-Pad1_ d_inverter		
U7  Net-_U1-Pad14_ Net-_U21-Pad2_ d_inverter		
U10  Net-_U1-Pad11_ Net-_U10-Pad2_ d_inverter		
U11  Net-_U1-Pad12_ Net-_U11-Pad2_ d_inverter		
U8  Net-_U1-Pad8_ Net-_U22-Pad1_ d_inverter		
U9  Net-_U1-Pad9_ Net-_U22-Pad2_ d_inverter		
U12  Net-_U1-Pad6_ Net-_U12-Pad2_ d_inverter		
U13  Net-_U1-Pad7_ Net-_U13-Pad2_ d_inverter		
U14  Net-_U1-Pad4_ Net-_U14-Pad2_ d_inverter		
U15  Net-_U1-Pad5_ Net-_U15-Pad2_ d_inverter		
U16  Net-_U1-Pad2_ Net-_U16-Pad2_ d_inverter		
U17  Net-_U1-Pad3_ Net-_U17-Pad2_ d_inverter		
U18  Net-_U1-Pad1_ Net-_U18-Pad2_ d_inverter		
U27  Net-_U18-Pad2_ Net-_U27-Pad2_ d_buffer		
U28  Net-_U28-Pad1_ Net-_U28-Pad2_ Net-_U28-Pad3_ d_and		
U30  Net-_U29-Pad3_ Net-_U1-Pad19_ d_inverter		
U29  Net-_U28-Pad3_ Net-_U27-Pad2_ Net-_U29-Pad3_ d_and		
U1  Net-_U1-Pad1_ Net-_U1-Pad2_ Net-_U1-Pad3_ Net-_U1-Pad4_ Net-_U1-Pad5_ Net-_U1-Pad6_ Net-_U1-Pad7_ Net-_U1-Pad8_ Net-_U1-Pad9_ ? Net-_U1-Pad11_ Net-_U1-Pad12_ Net-_U1-Pad13_ Net-_U1-Pad14_ Net-_U1-Pad15_ Net-_U1-Pad16_ Net-_U1-Pad17_ Net-_U1-Pad18_ Net-_U1-Pad19_ ? PORT		
U19  Net-_U19-Pad1_ Net-_U19-Pad2_ Net-_U19-Pad3_ d_xnor		
U20  Net-_U20-Pad1_ Net-_U20-Pad2_ Net-_U20-Pad3_ d_xnor		
U21  Net-_U21-Pad1_ Net-_U21-Pad2_ Net-_U21-Pad3_ d_xnor		
U23  Net-_U10-Pad2_ Net-_U11-Pad2_ Net-_U23-Pad3_ d_xnor		
U22  Net-_U22-Pad1_ Net-_U22-Pad2_ Net-_U22-Pad3_ d_xnor		
U24  Net-_U12-Pad2_ Net-_U13-Pad2_ Net-_U24-Pad3_ d_xnor		
U25  Net-_U14-Pad2_ Net-_U15-Pad2_ Net-_U25-Pad3_ d_xnor		
U26  Net-_U16-Pad2_ Net-_U17-Pad2_ Net-_U26-Pad3_ d_xnor		

.end
